US07691282B2
CF3OCF(CF3)CF2OCFHCF2C(CH3)2OH was prepared by the reaction of CF3OCF(CF3)CF2OCF═CF2 (52.9 g, 0.16 mol) with isopropanol (202 g, 3.37 mol) using LUPEROX 575 (11.4 g) as free radical initiator at 75° C. The resulting product reaction mixture was distilled and the distillation fraction of b.r.=161-166° C. used in the next step.

reactant | CF3OCF(CF3)CF2OCF═CF2 | 0.16 mol, 52.9 g | C(F)(F)(F)OC(F)(C(F)(F)F)C(F)(F)OC(F)=C(F)F | C6F12O2
reactant | isopropanol | 3.37 mol, 202 g | C(C)(C)O | C3H8O
product | CF3OCF(CF3)CF2OCFHCF2C(CH3)2OH | C(F)(F)(F)OC(F)(C(F)(F)F)C(F)(F)OC(F)C(F)(F)C(C)(C)O | C9H8F12O3
